US04172960
5-t-Butylpyrogallol
2,6-Dimethoxy-4-t-butylphenol (16.5 g, 0.08 mole) and pyridine hydrochloride (60 g) were heated at 200°-210° C. for 2 hours. The mixture was then added to iced dilute hydrochloric acid and the aqueous solution extracted twice with petroleum ether (b.p. 40°-60° C.) to remove any unchanged starter. The aqueous phase was saturated with salt and extracted three times with ether. Drying and running down gave 12.5 g title product (88%) m.p. 137°-9° C.

reactant | 2,6-Dimethoxy-4-t-butylphenol | 0.08 mole, 16.5 g | COC1=C(C(=CC(=C1)C(C)(C)C)OC)O | C12H18O3
reactant | pyridine hydrochloride | 60 g | Cl.N1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
product | 5-t-Butylpyrogallol | C(C)(C)(C)C=1C=C(C(=C(O)C1)O)O | C10H14O3
